Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Leg swelling
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
 Mr. ___ is a ___ gentleman with afib on warfarin, 
chronic kidney disease (Stage ___ secondary to oxalate 
nephropathy, diabetic nephropathy and 
hypertensive nephropathy, NASH and HFpEF (EF 55% ___ who 
presents with shortness of breath and weight gain.

Mr. ___ states that issues started around 4 weeks prior to 
presentation. He has "leg edema" at baseline but notes that he 
noted new swelling over his feet, with tightening of his shoes. 
He also has noted increased shortness of breath on ambulation; 3 
week ago he notes having to stop every 40-50 steps on a walk to
catch his breath. One week prior to presentation he notes 
increased swelling in his legs as well. In ___ he weighed 
~208-210 lbs and has noted progressive weight gain to the 220s. 
He has noticed no orthopnea or PND at home. He denies CP, 
palpitations, fevers, chills, lightheadedness. He is adherent to 
a low sodium diet and has not missed any of his medications. 

Patient presented to the ___ from home on ___. Weight was 224 
lbs with clothes,. Exam notable for clear lungs and no pedal 
edema. Labs notable for Hb 8.4, Cr 4.9 from 4.6 ___. NTpBNP 
7974 with no known priors.  EKG with
variable block a ventricular rate of 77 bpm left axis deviation 
and a low voltage QRS with a possible inferior infarct of 
undetermined age. Patient was given Lasix 20 mg IV in the 
morning and 40 mg in the afternoon ___ and IV lasix 40 mg the 
morning of ___ and again at 1700 with result good urine output. 
He also received his home medications (atorvastatin, amlodipine,
carvedilol, warfarin). 

On arrival to the cardiology ward, patient reports the above 
history. Currently feeling well but denies ever having symptoms 
at rest. He is here with his wife and is hoping to be discharged 
before ___ so he can fly to ___ for the ___. He 
denies palpitations, syncope, claudication-type symptoms or 
transient neurologic issues. 
 
Past Medical History:
CKD Stage 5
Hypertension
Cardiomyopathy 
Atrial fibirillation 
type 2 diabetes
Hyperlipidemia
Nonalcoholic steatohepatitis
Cholelithiasis

Past Surgical History:  Right shoulder surgery and right knee 
surgery, left radiocephalic fistula (failed), repeat left
brachiocephalic AV fistula (___)
 
Social History:
___
Family History:
No family history of premature atherosclerotic
cardiovascular disease or sudden cardiac death.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
======================
VS: ___ 1730 Temp: 98.5 PO BP: 138/77 HR: 78 RR: 18 O2 sat:
95% O2 delivery: room air Dyspnea: 0 RASS: 0 Pain Score: ___
FSBG: 189 

GENERAL: Well developed, well nourished man in NAD. Oriented x3.
Mood, affect appropriate.  Wife at bedside.
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: JVP 1 cm below angle of jaw with patient at 90 degrees, ~
16 cm water  
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Regular rate and rhythm. Normal S1, S2. No murmurs, rubs,
or gallops. no thrills or lifts.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Tight pitting edema over shins bilaterally, soft 2+
edema over dorsa of feet bilaterally. Warm, well perfused.
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric. 

DISCHARGE PHYSICAL EXAM
======================
PHYSICAL EXAMINATION:  
=======================  
24 HR Data (last updated ___ @ 659)
    Temp: 98.1 (Tm 98.3), BP: 112/66 (104-118/60-74), HR: 73
(73-77), RR: 20 (___), O2 sat: 100% (99-100), O2 delivery: RA,
Wt: 203.2 lb/92.17 kg (202.6-203.2)  
Fluid Balance (last updated ___ @ 433) 
  Last 8 hours  Total cumulative -400ml
    IN: Total 0ml
    OUT:  Total 400ml, Urine Amt 400ml
  Last 24 hours  Total cumulative -370ml
    IN: Total 1375ml, PO Amt 1375ml
    OUT:  Total 1745ml, Urine Amt 1745ml   

GENERAL: Well developed, well nourished man in NAD. Oriented x3.
Mood, affect appropriate.  
NECK: JVP ~6cm
CARDIAC: RRR. Normal S1, S2. No murmurs, rubs, or gallops. 
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: WWP. R>L BLE edema (R-side is 1+, L-side is trace) 
SKIN: Venostasis changes over bilateral shins. no rashes/lesions 

 
Pertinent Results:
ADMISSION LABS
=============
___ 10:20AM BLOOD WBC-7.8 RBC-2.96* Hgb-8.4* Hct-27.3* 
MCV-92 MCH-28.4 MCHC-30.8* RDW-15.3 RDWSD-51.6* Plt ___
___ 06:42AM BLOOD Neuts-68.8 Lymphs-13.4* Monos-12.4 
Eos-4.5 Baso-0.6 Im ___ AbsNeut-4.73 AbsLymp-0.92* 
AbsMono-0.85* AbsEos-0.31 AbsBaso-0.04
___ 10:20AM BLOOD ___
___ 10:20AM BLOOD Glucose-148* UreaN-83* Creat-4.9* Na-143 
K-5.0 Cl-106 HCO3-23 AnGap-14
___ 10:20AM BLOOD ALT-25 AST-21 AlkPhos-116 TotBili-0.9
___ 10:20AM BLOOD proBNP-7974*
___ 10:20AM BLOOD Mg-1.9
___ 06:42AM BLOOD TSH-2.8

DISCHARGE LABS
=============
___ 10:15AM BLOOD WBC-8.0 RBC-3.37* Hgb-9.2* Hct-29.8* 
MCV-88 MCH-27.3 MCHC-30.9* RDW-14.4 RDWSD-46.4* Plt ___
___ 10:15AM BLOOD ___ PTT-40.2* ___
___ 10:15AM BLOOD Glucose-151* UreaN-103* Creat-5.5* Na-140 
K-4.1 Cl-95* HCO3-28 AnGap-17
___ 07:35AM BLOOD ALT-20 AST-20 LD(LDH)-250 AlkPhos-119 
TotBili-0.5
___ 10:15AM BLOOD Calcium-8.5 Phos-4.7* Mg-2.3

REPORTS
========
CHEST (PA & LAT)Study Date of ___
Comparison to ___.  Stable elevation of the right 
hemidiaphragm. Moderate cardiomegaly persists.  Bilateral 
pleural effusions are better visualized on the lateral than on 
the frontal image.  The effusions are restricted to the dorsal 
costophrenic sinuses.  No pneumonia, no pulmonary
edema.

TTE ___
The left atrium is mildly dilated. The right atrium is mildly 
enlarged. There is no evidence for an atrial septal defect by 
2D/color Doppler. The estimated right atrial pressure is 
>15mmHg. There is mild symmetric left ventricular hypertrophy 
with a normal cavity size. There is normal regional and global 
left ventricular systolic function. The visually estimated left 
ventricular ejection fraction is >=55%. Left ventricular cardiac 
index is normal (>2.5 L/min/m2). There is no resting left 
ventricular outflow tract gradient. Tissue Doppler suggests an 
increased left ventricular filling pressure (PCWP greater than 
18 mmHg). Mildly dilated right ventricular cavity with normal 
free wall motion. Tricuspid annular plane systolic excursion 
(TAPSE) is normal. The aortic sinus diameter is normal for 
gender with mildly dilated ascending aorta. The aortic valve 
leaflets (3) are mildly thickened. There is no aortic valve 
stenosis. There is mild [1+] aortic regurgitation. The mitral 
valve leaflets are mildly thickened with no mitral valve 
prolapse. There is mild to moderate [___] mitral regurgitation. 
The pulmonic valve leaflets are normal. The tricuspid valve 
leaflets appear structurally normal. There is SEVERE [4+] 
tricuspid regurgitation. There is SEVERE pulmonary artery 
systolic hypertension. There is a trivial pericardial effusion.
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/ global biventricular systolic 
function. Elevated PCWP. Mild aortic regurgitation. Mild to 
moderate mitral regurgitation. Severe tricuspid regurgitation 
and severe pulmonary artery systolic hypertension.
Compared with the prior TTE (images not available for review) of 
___ , the severity of tricuspid regurgitation is now 
increased and pulmonary artery systolic pressure is much higher.

 
Brief Hospital Course:
TRANSITIONAL ISSUES: 
====================
# HFpEF 
Discharge weight: 203.2 lb (92.17 kg)
Discharge Cr: 5.5
Discharge regimen: 
-PRELOAD: Torsemide 60mg daily 
-AFTERLOAD: amlodipine 5mg 
-NHBK: carvedilol 12.5mg BID 

[] Please repeat CMP and check BPs and weights at next visit. 
Adjust home diuretics and afterload agents as appropriate. 

# Afib/flutter s/p successful DCCV 
# Anticoagulation
[] Please ensure INR remains in goal range ___ for 1 month after 
cardioversion to decrease stroke risk. Should have next INR 
check on ___ with adjustments as needed. Was discharged 
on warfarin 5mg daily 
[] If he has recurrence of Aflutter, would consider ablation 

# T2DM 
[] Home glipizide was discontinued on discharge given patient's 
ESRD. Please monitor patient's A1c and blood sugars and start an 
alternative agent as appropriate. 

BRIEF SUMMARY: 
==============
___ gentleman with afib on warfarin, chronic kidney 
disease (Stage ___ secondary to oxalate nephropathy, diabetic 
nephropathy and hypertensive nephropathy, NASH and HFpEF (EF 
55%) who presents with shortness of breath and weight gain 
concerning for heart failure exacerbation.

CORONARIES: Unknown, fixed distal anterior wall defect 
PUMP: EF 55%, LVH, 4+ TR
RHYTHM: Sinus 

=============== 
ACTIVE ISSUES: 
=============== 
# Acute on chronic diastolic heart failure. 
Patient presented with progressive dyspnea and weight gain over 
3 weeks prior to presentation. On admission, his exam was 
notable for elevated JVP, and NTpBNP of 7974 from unknown 
baseline. TTE ___ notable for known LVH but with 4+ TR from 
1+ TR ___. Patient with no localizing signs or symptoms of 
infection, EKG without signs of acute ischemia and patient's 
ongoing afib appears adequately rate-controlled. Patient reports 
good adherence to medication regimen and sodium restricted diet. 
Likely a combination of worsening renal function +/- severe 
tricuspid regurgitation (though it's likely that the TR appeared 
more severe in setting of volume overload). It is also possible 
that placement of his AV fistula contributed to his acute HF 
decompensation. Patient was diuresed with IV lasix boluses and 
he was transitioned to a PO regimen of Torsemide 60mg daily. 
Home amlodipine and carvedilol were continued. Weight at 
discharge was 203.2 lb (92.17 kg).

# CKD. 
Baseline creatinine around 4.3, etiology likely combination of 
oxalate nephropathy, diabetic nephropathy and hypertensive 
nephropathy. AVF placed ___ and undergoing renal transplant 
workup. Currently inactive on transplant list as will require 
cor angio prior to transplant. Patient deferring this until he 
progresses to requiring HD. No current indication for dialysis 
during this admission. We reached out to the transplant team who 
evaluated patient's fistula and did not need any additional 
studies. Cr on discharge was 5.5.

# A fib/atypical Aflutter s/p DCCV on ___
CHADS2VASC 4. INR supratherapeutic on presentation at 3.8. 
Continued home carvedilol and warfarin. He underwent a 
successful DCCV on ___ and remained in NSR on discharge. He 
will have follow up with Dr. ___ office in 1 month for 
further management. If he has recurrence of Aflutter in the 
future, he may benefit from an ablation. 

================ 
CHRONIC ISSUES: 
================ 
# DM II. 
Received ISS while in house. Home glipizide was DISCONTINUED on 
discharge given his CKD. 

# CAD. 
Continued home atorvastatin 40 mg. 

# CODE STATUS: Full code presumed 
# CONTACT: 
Name of health care proxy: ___ 
___: wife 
Phone number: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Potassium Citrate 10 mEq PO BID 
2. Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever 
3. CARVedilol 12.5 mg PO BID 
4. Docusate Sodium 100 mg PO BID:PRN Constipation - Second Line 
5. Senna 8.6 mg PO BID:PRN Constipation - First Line 
6. Warfarin 7.5 mg PO 3X/WEEK (___) 
7. Warfarin 5 mg PO 4X/WEEK (___) 
8. amLODIPine 5 mg PO DAILY 
9. Atorvastatin 40 mg PO QAM 
10. Multivitamins 1 TAB PO DAILY 
11. sevelamer CARBONATE 800 mg PO TID W/MEALS 
12. Calcium Carbonate 500 mg PO TID W/MEALS 
13. GlipiZIDE XL 2.5 mg PO DAILY 
14. Cyanocobalamin 500 mcg PO DAILY 
15. Pyridoxine 100 mg PO DAILY 
16. Calcitriol 0.25 mcg PO 3X/WEEK (___) 
17. Vitamin D 1000 UNIT PO DAILY 
18. alpha lipoic acid ___ mg oral DAILY 
19. Prolensa (bromfenac) 0.07 % ophthalmic (eye) QAM 
20. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP LEFT EYE BID 

 
Discharge Medications:
1.  Torsemide 60 mg PO DAILY 
RX *torsemide 20 mg 3 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*0 
2.  Warfarin 5 mg PO DAILY16 
RX *warfarin [Coumadin] 5 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
3.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever  
4.  alpha lipoic acid ___ mg oral DAILY  
5.  amLODIPine 5 mg PO DAILY  
6.  Atorvastatin 40 mg PO QAM  
7.  Calcitriol 0.25 mcg PO 3X/WEEK (___)  
8.  Calcium Carbonate 500 mg PO TID W/MEALS  
9.  CARVedilol 12.5 mg PO BID  
10.  Cyanocobalamin 500 mcg PO DAILY  
11.  Docusate Sodium 100 mg PO BID:PRN Constipation - Second 
Line  
12.  Multivitamins 1 TAB PO DAILY  
13.  Pyridoxine 100 mg PO DAILY  
14.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
15.  sevelamer CARBONATE 800 mg PO TID W/MEALS  
16.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
==================
Acute on chronic heart failure with preserved EF

SECONDARY DAIGNOSIS: 
====================
Atrial fibrillation
End stage renal disease
Type II diabetes 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at the ___ 
___! 

WHY WAS I IN THE HOSPITAL? 
========================== 
- You were admitted because you were short of breath and had 
weight gain with leg swelling.

WHAT HAPPENED IN THE HOSPITAL? 
============================== 
- We gave you diuretic medications to help you pee off extra 
fluid. You responded well to this and were able to pee off a lot 
of fluid and lose a substantial amount of weight. 
- You underwent a procedure called a cardioversion in which an 
electrical shock was given to your heart to convert your from 
atrial fibrillation (an abnormal heart rhythm) into a normal 
rhythm. You tolerated this well and your heart remained in a 
normal rhythm afterwards. 

WHAT SHOULD I DO WHEN I GO HOME? 
================================ 
- Take all of your medications as prescribed (listed below) 
- Follow up with your doctors as listed below 
- Weigh yourself every morning, seek medical attention if your 
weight goes up more than 3 lbs. 
- Your weight at discharge is 203.2lb (92.17 kg) 
- Please weigh yourself today at home and use this as your new 
baseline
- Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night. 

If you have any urgent questions that are related to your 
recovery from your stay or are experiencing any symptoms that 
are concerning to you and you think you may need to return to 
the hospital, please call the ___ HeartLine at ___ to 
speak to a cardiologist or cardiac nurse practitioner.

It was a pleasure participating in your care. We wish you the 
best! 

-Your ___ Care Team
 
Followup Instructions:
___